US05399703
An Alternative Process For Producing 2-(2-Aminophenylthio)Benzonitrile (the Product According to Reference Example 5, Step 4)
In 10 ml of DMF was dissolved 1.25 g of orthoaminothiophenol followed by addition of 1.38 g of potassium carbonate. The mixture was preheated at 100° C. and after 1.45 g of o-chlorobenzonitrile was added, the mixture was stirred in an argon gas stream at 100° C. for 1 hour. To the reaction mixture was added ice-water and the mixture was extracted with ethyl acetate. The extract was washed with water twice and dried over magnesium sulfate and the solvent was distilled off. The residue was crystallized from n-hexane-isopropyl ether to give 1.91 g of the title compound as white crystals, m.p. 88°-90° C.

reactant | orthoaminothiophenol | 1.25 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | o-chlorobenzonitrile | 1.45 g | ClC1=C(C#N)C=CC=C1 | C7H4ClN
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-(2-Aminophenylthio)Benzonitrile | 1.91 g | NC1=C(C=CC=C1)SC1=C(C#N)C=CC=C1 | C13H10N2S
